US06982348B2
6) (4RS,5SR)-5-(4-fluorophenyl)-4-[(2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxin-6-yl)methyl]-1,3-oxazolidin-2-one
To a solution of (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-[(2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxin-6-yl)methyl]propanoic acid (3.3 g, 8.16 mmol) in tetrahydrofuran (120 ml) were added diphenylphosphoryl azide (1.94 ml, 8.98. mmol) and triethylamine (1.71 ml, 12.2 mmol), and the mixture was heated under reflux for 1 hr. The reaction solution was allowed to cool and the mixture was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate). Recrystallization from ethyl acetate-hexane gave the objective substance (2.74 g, 84%).

reactant | (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-[(2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxin-6-yl)methyl]propanoic acid | 8.16 mmol, 3.3 g | FC1=CC=C(C=C1)C(C(C(=O)O)CC1=CC2=C(OC(C(O2)(F)F)(F)F)C=C1)O | C18H13F5O5
reactant | diphenylphosphoryl azide | 1.94 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 12.2 mmol, 1.71 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | (4RS,5SR)-5-(4-fluorophenyl)-4-[(2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxin-6-yl)methyl]-1,3-oxazolidin-2-one | FC1=CC=C(C=C1)C1C(NC(O1)=O)CC1=CC2=C(OC(C(O2)(F)F)(F)F)C=C1 | C18H12F5NO4
